US06964961B2
B. 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid amide
The title compound was prepared from 2-methyl-1H-indol-5-ylamine and 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid amide by a procedure analogous to Example 1C. MS: 323 (MH+); HPLC Rf: 3.65 min; HPLC purity: 98%.

reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | 7-chloro-thieno[3,2-b]pyridine-2-carboxylic acid amide | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N | C8H5ClN2OS
product | 7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid amide | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)N | C17H14N4OS
